US04778790
t-Butyl rel-α-{3(S)-[5-(1-t-butoxycarbonyl-4piperidyl)-1-ethoxycarbonylpentylamino]-2-oxo-6(R)phenylperhydroazepin-1-yl}acetate
1.08 g of ethyl 2-bromo-6-(1-t-butoxycarbonyl4-piperidyl)hexanoate, 0.85 g of t-butyl rel-α-[3(S)amino-2-oxo-6(R)-phenylperhydroazepin-1-yl]acetate, 0.4 g of sodium iodide and 1.4 g of sodium carbonate were added to 15 ml of dimethylformamide, and the mixture was stirred at room temperature for 3 days. Ethyl acetate and water were then added to the reaction mixture, and, after stirring, the ethyl acetate layer was separated, washed with an aquous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was then removed by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography using a 2:1 by volume mixture of cyclohexane and ethyl acetate as the eluent.

reactant | ethyl 2-bromo-6-(1-t-butoxycarbonyl4-piperidyl)hexanoate | 1.08 g | BrC(C(=O)OCC)CCCCC1CCN(CC1)C(=O)OC(C)(C)C | C18H32BrNO4
reactant | t-butyl rel-α-[3(S)amino-2-oxo-6(R)-phenylperhydroazepin-1-yl]acetate | 0.85 g | N[C@@H]1C(N(C[C@H](CC1)C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C18H26N2O3
reactant | sodium iodide | 0.4 g | [I-].[Na+]
reactant | sodium carbonate | 1.4 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | t-Butyl rel-α-{3(S)-[5-(1-t-butoxycarbonyl-4piperidyl)-1-ethoxycarbonylpentylamino]-2-oxo-6(R)phenylperhydroazepin-1-yl}acetate | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)N[C@@H]1C(N(C[C@H](CC1)C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C36H57N3O7
